US03954776
4.5 g of 1-chloro-3-(2,6-dimethylpiperidino)-2-propanol is added to a mixture of 3.4 g of 2-(2-methoxyethoxy)phenol, 2.8 g of anhydrous potassium carbonate and 70 ml of acetone, and the resulting mixture is refluxed with stirring for 20 hours. The insoluble matter is then filtered off, and the filtrate is concentrated under reduced pressure. To the residue is added ether, and the ethereal solution is extracted with two 80 ml portions of 10% hydrochloric acid. The aqueous layer is made alkaline with sodium hyroxide, and the separated oil is extracted twice with ether. The ether layer is dried over anhydrous potassium carbonate, and the ether is removed to give 4.6 g of 1-(2,6-dimethylpiperidino)-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol, melting at 92°-94°C.

reactant | 1-chloro-3-(2,6-dimethylpiperidino)-2-propanol | 4.5 g | ClCC(CN1C(CCCC1C)C)O | C10H20ClNO
reactant | 2-(2-methoxyethoxy)phenol | 3.4 g | COCCOC1=C(C=CC=C1)O | C9H12O3
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 1-(2,6-dimethylpiperidino)-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol | 4.6 g | CC1N(C(CCC1)C)CC(COC1=C(C=CC=C1)OCCOC)O | C19H31NO4
